US09126981B2
Synthesis of 3-(3-benzylureido)-3-methylbutanoic Acid (Compound VI-2)
To a solution of 3-amino-3-methylbutanoic acid (5.86 g, 34.2 mmol) in THF was added benzyl isocyanate (5.87 ml, 47.5 mmol) and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate (100 ml) and washed with water (100 ml) and brine (100 ml). Then the organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The crude residue was subjected to silica gel column chromatography (eluent: chloroform:methanol=95:5) to obtain the title compound (5.73 g, 67%).

reactant | 3-amino-3-methylbutanoic acid | 34.2 mmol, 5.86 g | NC(CC(=O)O)(C)C | C5H11NO2
reactant | benzyl isocyanate | 47.5 mmol, 5.87 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3-benzylureido)-3-methylbutanoic Acid | 5.73 g, 67% | C(C1=CC=CC=C1)NC(NC(CC(=O)O)(C)C)=O | C13H18N2O3
